### PR TITLE
[Merged by Bors] - feat: commutative star-ordered rings are ordered rings

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Star.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+
+In this file we prove a kind of converse: a *commutative* star-ordered ring is an ordered ring.
+-/
+
+namespace StarOrderedRing
+
+/- This example shows that nonnegative elements in a ordered semiring which is also star-ordered
+must commute. -/
+example {R : Type*} [OrderedSemiring R] [StarOrderedRing R] {x y : R} (hx : 0 ≤ x) (hy : 0 ≤ y) :
+    x * y = y * x := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Ring/Star.lean:25]: Can you add to this comment an explanation of why you think this would be a pointless lemma?

File: Mathlib/Algebra/Order/Ring/Star.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+/-- A commutative star-ordered semiring is an ordered semiring.
+
+See note [lower instance priority]. -/
+instance (priority := 100) {R : Type*} [CommSemiring R] [PartialOrder R] [StarOrderedRing R] :
+    OrderedCommSemiring R where
+  add_le_add_left _ _ := add_le_add_left
+  zero_le_one := by simpa using star_mul_self_nonneg (1 : R)
+  mul_comm := mul_comm
+  mul_le_mul_of_nonneg_left _ _ _ := mul_le_mul_of_nonneg_left
+  mul_le_mul_of_nonneg_right a b c := by simpa only [mul_comm _ c] using mul_le_mul_of_nonneg_left
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Ring/Star.lean:62]: Can we make this a default argument in the `OrderedCommSemiring` constructor? Then you could drop the lemma above.

Comment (j-loreaux) [reply Mathlib/Algebra/Order/Ring/Star.lean:62]: Won't that wreak havoc in `with` clauses, or am I misunderstanding?

File: Mathlib/Algebra/Order/Ring/Star.lean [hunk 3]
```diff
@@ -0,0 +1,84 @@
...
+    | Hs _ h => obtain ⟨x, rfl⟩ := h; simp
+    | H1 => simp
+    | Hmul x hx y hy => simp only [←nonneg_iff] at hx hy; aesop
+  -- `0 ≤ y * x`, and hence `y * x` is self-adjoint
+  have := this _ <| mul_nonneg hy hx
+  aesop
+
+/- This will be implied by the instance below, we only prove it to avoid duplicating the
+argument in the instance below for `mul_le_mul_of_nonneg_right`. -/
+lemma mul_le_mul_of_nonneg_left {R : Type*} [CommSemiring R] [PartialOrder R] [StarOrderedRing R]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Star.lean:44]:
```suggestion
private lemma mul_le_mul_of_nonneg_left {R : Type*} [CommSemiring R] [PartialOrder R] [StarOrderedRing R]
```

File: Mathlib/Algebra/Order/Ring/Star.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Order/Ring/Star.lean:70]: I don't think it does... I've attempted it in #7572.

I don't really understand how this syntax works though; it seems the information lives somewhere outside of `.mk`!

Comment (eric-wieser) [reply Mathlib/Algebra/Order/Ring/Star.lean:70]: Even with #7572 merged, Lean complains if I omit `mul_le_mul_of_nonneg_right`.

@digama0, do you understand what's going on here?

**Review by YaelDillies — APPROVED** [review]
This looks fine except the comment awaiting a reply from @digama0.

Still, I think that's mergeable as is, so

maintainer merge

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Comment by Vierkantor** [comment]
I agree with Yaël that merging this PR and fixing the inconvenient field later is better. I'll make a Zulip thread to follow up.

bors r+

**Comment by Vierkantor** [comment]
No, yes, this *is* the right PR to merge. Sorry, I got confused. :sweat_smile:

bors r+
